US06951868B2
To a stirred solution of methyl 3-formyl-4-[(1-methylprop-2-enyl)oxy]benzoate (370 mg, 1.59 mmol) in CH2Cl2 (8 mL) at rt is added benzylidene-bis(tricyclohexylphosphine)dichlororuthenium (56 mg, 0.068 mmol). The mixture is stirred at rt overnight. The reaction mixture is concentrated in vacuo to a dark residue. The crude product is purified by flash chromatography on SiO2. Elution with hexanes-EtOAc (95:5) gives 225 mg (69%) of methyl 2-methyl-2H-chromene-6-carboxylate as a clear oil: 1H NMR (400 MHz, CDCl3) δ 7.82, 7.68, 6.79, 6.41, 5.71, 5.11, 3.89, 1.48.

reactant | methyl 3-formyl-4-[(1-methylprop-2-enyl)oxy]benzoate | 1.59 mmol, 370 mg | C(=O)C=1C=C(C(=O)OC)C=CC1OC(C=C)C | C13H14O4
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 0.068 mmol, 56 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | methyl 2-methyl-2H-chromene-6-carboxylate | 225 mg, 69% | CC1OC2=CC=C(C=C2C=C1)C(=O)OC | C12H12O3
